US07425634B2
To (4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-3,5-dimethylpyridin-2-yl)methanol monohydrate (690 g), toluene was added to perform azeotropic dehydration (2.1 L×5, 1.75 L×1). To the concentrated product obtained, toluene (393 mL) was added to obtain a toluene solution (921 g) of (4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-3,5-dimethylpyridin-2-yl)methanol.

reactant | (4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-3,5-dimethylpyridin-2-yl)methanol monohydrate | 690 g | O.CC1(OCC(CO1)COC1=C(C(=NC=C1C)CO)C)C
solvent | toluene | 921 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 393 mL | C1(=CC=CC=C1)C | C7H8
product | (4-(2,2-dimethyl-1,3-dioxan-5-yl)methoxy-3,5-dimethylpyridin-2-yl)methanol | CC1(OCC(CO1)COC1=C(C(=NC=C1C)CO)C)C | C15H23NO4
